US09302988B2
Step 2: Ethyl 3-bromo-4-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylate
N-Bromosuccinimide (NBS) (17.7 g, 99.77 mmol) was portion wise added to an ice cooled solution of ethyl 4-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylate (21 g, 95.02 mmol) and K2CO3 (13.7 g, 99.77 mmol) in acetonitrile. The reaction mixture was stirred for 2 h at RT. The reaction mixture was diluted with EtOAc and H2O. The aqueous layer was extracted with EtOAc (2×300 mL). Combined organic layer was dried over anhydrous Na2SO4, concentrated under reduced pressure to yield crude mass which was directly used to next step without further purification

reactant | N-Bromosuccinimide | 99.77 mmol, 17.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl 4-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylate | 95.02 mmol, 21 g | CC=1C=C(NC1C(F)(F)F)C(=O)OCC | C9H10F3NO2
reactant | K2CO3 | 99.77 mmol, 13.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | Ethyl 3-bromo-4-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylate | BrC1=C(NC(=C1C)C(F)(F)F)C(=O)OCC | C9H9BrF3NO2
